US07902187B2
2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-6-phenyl-7H-purin-8(9H)-one.
General procedure for displacement reactions of 6-chloropurinones with aliphatic amines. To 10 mg (0.022 mmol) of 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-7H-purin-8(9H)-one was added 0.6 mL of 1-butanol, followed by an aliphatic amine (0.1 mL), and the reaction mixture was stirred at 110° C. for 1-2 h (HPLC monitoring). Upon completion of the reaction, the mixture was left to cool to room temperature, was diluted with acetonitrile and filtered through a Nylon 0.45 μm filter. Preparative HPLC purification afforded, after solvent evaporation and drying, the desired product.

reactant | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-7H-purin-8(9H)-one | 0.022 mmol, 10 mg | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CCOC1=C(C=CC=C21)F)=O | C21H13ClF2N6O2
reactant | 1-butanol | 0.6 mL | C(CCC)O | C4H10O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-6-phenyl-7H-purin-8(9H)-one | FC=1C=CC2=C(N(C=N2)C2=NC(=C3NC(N(C3=N2)[C@@H]2CCOC3=C(C=CC=C23)F)=O)C2=CC=CC=C2)C1 | C27H18F2N6O2
